US04254134
N-(1,3,4,9-tetrahydro-2H-carbazol-2-yl)formamide (Compound 3b)
A mixture of 8.90 g (0.048 mol) of 2,3,4,9-tetrahydro-1H-carbazol-2-amine and 65 ml of dry formamide was stirred and heated under N2 for 5 hr at 95°-100° C. The cooled reaction mixture was poured into H2O, and the precipitated gum extracted with CHCl3. The combined extracts were washed with 0.1 N HCl, 5% aqueous NaHCO3, and H2O, and dried. Et2O-trituration of the residue remaining after evaporation of the CHCl3 gave a tan solid, 8.58 g, mp 123°-126°. For analysis, it was necessary to dry the recrystallized (EtOH) sample at 120° (P2O5, 0.02 mm, 20 hr), mp 169°-171°.

reactant | 2,3,4,9-tetrahydro-1H-carbazol-2-amine | 0.048 mol, 8.90 g | C1C(CCC=2C3=CC=CC=C3NC12)N | C12H14N2
reactant | formamide | 65 ml | C(=O)N | CH3NO
solvent | H2O | O | H2O
product | N-(1,3,4,9-tetrahydro-2H-carbazol-2-yl)formamide | C1C(CCC=2C3=CC=CC=C3NC12)NC=O | C13H14N2O
